US08748624B2
STEP B: 4′-chloro-2-methyl-[1,1′-biphenyl]-4-amine
4-bromo-3-methylaniline (5.1 g, 27.4 mmol), 4-chlorophenylboronic acid (5.1 g, 32.9 mmol), Pd(dppf)Cl2 (1.1 g, 1.4 mmol), and 2M aqueous K2CO3 (27.4 mL, 54.8 mmol) were dissolved in 1,4-dioxane (110 mL) and the resulting mixture was heated to 100° C. After 2 h the resulting mixture was cooled to room temperature, concentrated, diluted with EtOAc and 4M aqueous NaCl, and the layers were separated. The aqueous layer was extracted with EtOAc and the combined organics were dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | 4-bromo-3-methylaniline | 27.4 mmol, 5.1 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | 4-chlorophenylboronic acid | 32.9 mmol, 5.1 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 54.8 mmol, 2M, 27.4 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 110 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 1.4 mmol, 1.1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4′-chloro-2-methyl-[1,1′-biphenyl]-4-amine | ClC1=CC=C(C=C1)C1=C(C=C(C=C1)N)C | C13H12ClN
